US07112697B1
1-Methoxy-2-(phenylthio)benzene (entry 4, Table 1):
The general procedure was used to convert 2-iodoanisole and thiophenol to the title product. Purification by flash chromatography (hexane/CH2Cl2 [3:1] as the eluent) gave the analytically pure product as a clear oil (412 mg, 95% yield). 1H NMR (300 MHz, CDCl3) δ 7.41–7.25 (m, 6H; Hc, He, He′, Hf, Hf′, Hg), 7.12 (dd, J=6.03, 1H; Ha), 6.96–6.89 (m, 2H; Hb, Hd), 3.90 (s, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 157.21 (C6), 134.39 (C8), 131.50 (C2), 131.35 (C9, C13), 129.07 (C10, C12), 128.27 (C4), 126.99 (C11), 123.96 (C1), 121.16 (C3), 110.76 (C5), 55.78 (C7). Anal. Calcd. for C13H12OS: C, 72.19; H, 5.59; S, 14.82; Found C, 72.23; H, 5.70; S, 14.67.

reactant | 2-iodoanisole | IC1=C(C=CC=C1)OC | C7H7IO
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 1-Methoxy-2-(phenylthio)benzene | COC1=C(C=CC=C1)SC1=CC=CC=C1 | C13H12OS
